US08349886B2
ethyl (4-bromo-5-methoxy-1H-indazol-1-yl)acetate
A mixture of 4-bromo-5-methoxy-1H-indazole (8.57 g), ethyl bromoacetate (7.56 g), potassium carbonate (6.26 g) and N,N-dimethylformamide (30 mL) was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (4.65 g, yield 39%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio). melting point 106-107° C. MS: 315 (MH+).

reactant | 4-bromo-5-methoxy-1H-indazole | 8.57 g | BrC1=C2C=NNC2=CC=C1OC | C8H7BrN2O
reactant | ethyl bromoacetate | 7.56 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 6.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl (4-bromo-5-methoxy-1H-indazol-1-yl)acetate | 4.65 g, yield 39% | BrC1=C2C=NN(C2=CC=C1OC)CC(=O)OCC | C12H13BrN2O3
